US04778796
Preparation of 3-(6-methoxy-3-pyridyl)acrylic acid:
A mixture of 4.5 g of methyl 2-chloro-3-(6-methoxy-3-pyridyl)propionate, 46 ml of 4N potassium hydroxide solution, and 46 ml of ethanol is refluxed for 2 hours and concentrated under reduced pressure. To the residue is added 30 ml of water, and the mixture is neutralized with acetic acid. The resulting precipitate is collected and recrystallized from isopropyl alcohol to give 0.63 g of the title compound, m.p. 177°-180° C.

reactant | methyl 2-chloro-3-(6-methoxy-3-pyridyl)propionate | 4.5 g | ClC(C(=O)OC)CC=1C=NC(=CC1)OC | C10H12ClNO3
reactant | potassium hydroxide | 4N, 46 ml | [OH-].[K+]
solvent | ethanol | 46 ml | C(C)O | C2H6O
product | 3-(6-methoxy-3-pyridyl)acrylic acid | 0.63 g | COC1=CC=C(C=N1)C=CC(=O)O | C9H9NO3
